US06887863B2
4-phenylbutanal
A solution of 4-phenylbutyric acid (1.64 g, 10.0 mmol), N,O-dimethyl hydroxylamine hydrochloride (1.58 g, 16 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.06 g, 10.7 mmol), 1-hydroxybenzotriazole (1.56 g, 11.6 mmol), and N-methylmorpholine (2.8 mL, 26 mmol) in dichloromethane (40 mL) at room temperature was stirred for 16 hours, diluted with dichloromethane, washed sequentially with aqueous NaHCO3, brine, 10% KHSO4, and brine, dried (MgSO4), filtered, and concentrated. The concentrate and lithium aluminum hydride (9.0 mmol, 1 equivalent) in diethyl ether (49 mL) at room temperature was stirred 90 minutes, treated with 1M NaHSO4, diluted with ether, washed sequentially with 10% KHSO4, and brine, dried (MgSO4), filtered then concentrated to provide the desired product.

reactant | 4-phenylbutyric acid | 10.0 mmol, 1.64 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | N,O-dimethyl hydroxylamine hydrochloride | 16 mmol, 1.58 g | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.7 mmol, 2.06 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 11.6 mmol, 1.56 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 26 mmol, 2.8 mL | CN1CCOCC1 | C5H11NO
reactant | lithium aluminum hydride | 9.0 mmol, 1 equivalent | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaHSO4 | 1M | OS(=O)(=O)[O-].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 49 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 4-phenylbutanal | C1(=CC=CC=C1)CCCC=O | C10H12O
